US04892881
1-Amino-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxypropane fumarate hydrate was prepared similarly to the method described in the previous Example using 1-azido-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxypropane, propane-1,3-dithiol and triethylamine in methanol. The product was characterised as a hydrate of the fumarate salt, m.p. 170° C.

reactant | 1-azido-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxypropane | N(=[N+]=[N-])CC(COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C)O | C21H24Cl2N4O6
reactant | propane-1,3-dithiol | C(CCS)S | C3H8S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
product | 1-Amino-3-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-hydroxypropane fumarate hydrate | O.C(\C=C\C(=O)O)(=O)O.NCC(COCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C)O | InChI=1S/C21H26Cl2N2O6.C4H4O4.H2O/c1-4-31-21(28)18-15(10-30-9-12(26)8-24)25-11(2)16(20(27)29-3)17(18)13-6-5-7-14(22)19(13)23;5-3(6)1-2-4(7)8;/h5-7,12,17,25-26H,4,8-10,24H2,1-3H3;1-2H,(H,5,6)(H,7,8);1H2/b;2-1+;
